US05376668
Sodium hydride (10.2 mmol) was added to a solution of 3-(5-methyl-2-thienyl)-1-propanol (4.0 g, 25.5 mmol) in THF (40 ml). The mixture was stirred for 1 h at room temperature, whereupon a solution of 3-(3-chloro-1,2,5-thiadiazol-4-yl)pyridine (EP 0384288) (1.0 g, 5.1 mmol) in THF (10 ml) was added dropwise to the reaction mixture. After stirring overnight at room temperature, the reaction was quenched with water then extracted with diethyl ether. The organic phase was dried over NaCl/Na2SO4 then evaporated to yield crude 3-(3-(5-methyl-2-thienyl)propoxy-1,2,5-thiadiazol-4-yl)pyridine. A solution of 3-(3-(5-methyl-2-thienyl)propoxy-1,2,5-thiadiazol-4-yl)pyridine (1.0 g, 3.2 mmol) and iodomethane (2.3 g, 16.0 mmol) in 60 ml of acetone was refluxed overnight. The solution was evaporated to yield 1.5 g of the quaternized product. Sodium borohydride (0.6 g, 16.0 mmol) was carefully added to a solution of the quaternized product (1.5 g) in ethanol (30 ml). The reaction was evaporated and the resulting residue was taken up in water and extracted with methylene chloride (3×100 ml). The organic phase was dried over NaCl/Na2SO4 then evaporated. The residue was purified by radial chromatography eluting with 0.5% NH4OH/5.0% EtOH in CHCl3. The oxalate salt was made to yield 337 mg of the title compound. M.p. 134°-137° C. (Compound 62).

reactant | Sodium hydride | 10.2 mmol | [H-].[Na+]
reactant | 3-(5-methyl-2-thienyl)-1-propanol | 25.5 mmol, 4.0 g | CC1=CC=C(S1)CCCO | C8H12OS
reactant | 3-(3-chloro-1,2,5-thiadiazol-4-yl)pyridine | 5.1 mmol, 1.0 g | ClC1=NSN=C1C=1C=NC=CC1 | C7H4ClN3S
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(3-(5-methyl-2-thienyl)propoxy-1,2,5-thiadiazol-4-yl)pyridine | CC1=CC=C(S1)CCCOC1=NSN=C1C=1C=NC=CC1 | C15H15N3OS2
